US06566552B2
Preparation of Ethyl (+) (R)-4-chloro-hydroxybutyrate
14 Kg of ethyl 4-chloro-3-oxobutyrate (titre 88%) and 6.2 g of {[Ru (p-cymene) I (+) TMBTP] I}, are placed under argon in a 200-liter reactor, in 143 l of ethyl alcohol. The mixture is heated at 116° C. and pressurized with hydrogen at 5-6 bar. Temperature rises up to 124° C. and the reaction goes to completion within about 1 hour. The mixture is cooled, concentrated at reduced pressure, and the residue, analyzed with gaschromatography, has a 81% titre of ethyl (+) (R)-4-chloro-3-hydroxybutyrate, with an e.e. of 96.7% reaction yield: 94%.

reactant | ethyl 4-chloro-3-oxobutyrate | 14 Kg | ClCC(CC(=O)OCC)=O | C6H9ClO3
reactant | hydrogen | [H][H] | H2
reactant | ethyl alcohol | 143 l | C(C)O | C2H6O
product | Ethyl (+) (R)-4-chloro-hydroxybutyrate | yield: 94% | ClCC[C@H](C(=O)OCC)O | C6H11ClO3
